US04703046
A solution of 4-nitrobenzyl 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methoxy-3-cephem-4-carboxylate (syn isomer, 2.9 g.) in a mixture of tetrahydrofuran (110 ml.) and methanol (80 ml.) was treated in a similar manner to that of Example 8-(2) (diethyl ether was used for pulverization instead of diisopropyl ether) to give 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methoxy-3-cephem-4-carboxylic acid (syn isomer, 1.2 g.).

reactant | 4-nitrobenzyl 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methoxy-3-cephem-4-carboxylate | 2.9 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CC(S2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC)Br | C22H19BrN6O9S2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | methanol | 80 ml | CO | CH4O
product | 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methoxy-3-cephem-4-carboxylic acid | 1.2 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CC(S2)OC)C(=O)O)C1=O)=NOC)Br | C15H14BrN5O7S2
